US09388174B2
A reaction mixture solution prepared by suspending 2.18 g of 4-bromo-2-nitrophenol and 2.07 g of potassium carbonate in 40 mL of dimethylformamide and adding 2.04 g of isopropyl iodide was heated under stirring at 110° C. for 14 hours under a nitrogen atmosphere. After the addition of water to the reaction mixture solution, extraction was performed using ethyl acetate. The organic layer was washed with saline, followed by drying and concentrating under reduced pressure. The resulting crude product was separated and purified by silica gel column chromatography to obtain 2.08 g of 4-bromo-2-nitro-1-(propan-2-yloxy)benzene. (2) A suspension was prepared by adding 1.05 g of potassium hydrogen carbonate, 22 mg of palladium chloride (II) and 102 mg of a copper bromide (I) dimethylsulfide complex to 2.08 g of 4-bromo-2-nitro-1-(propan-2-yloxy)benzene obtained above, followed by suspending the mixture in 15 mL of toluene. Subsequently, a reaction mixture solution prepared by adding 1.02 g of ethyl 4-methyl-1,3-thiazole-5-carboxylate, 46.2 μL of isobutyric acid and 114 mg of di-t-butylcyclohexylphosphine to the suspension was heated at 120° C. for 14 hours under a nitrogen atmosphere. The reaction mixture solution was celite-filtered to remove insoluble matter, water was added to the filtrate, extraction was performed using ethyl acetate. The organic layer was washed with saline and then dried and concentrated under reduced pressure, followed by purifying by a conventional method to obtain 1.38 g of ethyl 4-methyl-2-[3-nitro-4-(propan-2-yloxy)phenyl]-1,3-thiazole-5-carboxylate.

reactant | potassium hydrogen carbonate | 1.05 g | C(O)([O-])=O.[K+]
reactant | 4-bromo-2-nitro-1-(propan-2-yloxy)benzene | 2.08 g | BrC1=CC(=C(C=C1)OC(C)C)[N+](=O)[O-] | C9H10BrNO3
reactant | ethyl 4-methyl-1,3-thiazole-5-carboxylate | 1.02 g | CC=1N=CSC1C(=O)OCC | C7H9NO2S
reactant | isobutyric acid | 46.2 μL | C(C(C)C)(=O)O | C4H8O2
reactant | di-t-butylcyclohexylphosphine | 114 mg | C(C)(C)(C)P(C1CCCCC1)C(C)(C)C | C14H29P
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium chloride (II) | 22 mg | Cl[Pd]Cl
catalyst | copper bromide | 102 mg | [Cu](Br)Br
product | ethyl 4-methyl-2-[3-nitro-4-(propan-2-yloxy)phenyl]-1,3-thiazole-5-carboxylate | 1.38 g | CC=1N=C(SC1C(=O)OCC)C1=CC(=C(C=C1)OC(C)C)[N+](=O)[O-] | C16H18N2O5S
